US07253195B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(3-isopropylamino-1,1-dimethyl-propyl)-[1,3,4]thiadiazol-2-yl]-amide
A mixture of -[2-(2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-3-oxo-propyl)-[1,3,4]thiadiazol-2-yl]-amide (88 mg, 0.2 mmol), isopropylamine (0.09 ml) in dichloroethane (1 ml) and methylene chloride (1 ml) was stirred at r.t. for 10 min, sodium triacetoxyborohydride (76 mg) was added and the resulting mixture was stirred at r.t. overnight. The mixture was quenched with water, diluted with sodium hydroxide, and extracted with methylene chloride. The organic layer was separated, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by silica gel column chromatography using 3-5% methanol in methylene chloride, then 5% methanol/0.5% ammonium hydroxide in methylene chloride as eluent to give the title compound as a free base form. The free base was treated with 4 N HCl in doxane (0.1 ml) in methylene chloride (1 ml) and concentrated to dryness. The residue was triturated with hexane, pumped to dryness to give a white solid, LC-MS RT=1.8 min, M+1=481.9.

reactant | 2-(2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1,1-dimethyl-3-oxo-propyl)-[1,3,4]thiadiazol-2-yl]-amide | 0.2 mmol, 88 mg | CC(CC=O)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C20H24F2N4O3S
reactant | isopropylamine | 0.09 ml | C(C)(C)N | C3H9N
reactant | sodium triacetoxyborohydride | 76 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(3-isopropylamino-1,1-dimethyl-propyl)-[1,3,4]thiadiazol-2-yl]-amide | C(C)(C)NCCC(C)(C)C1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H33F2N5O2S
